US06759554B2
N-Methyl-N-thiophen-3-yl-formamide
Using general procedure C with the exception that CuI (10 mg, 0.05 mmol, 5 mol %) was used, 3-bromothiophene was coupled with N-methylformamide with the reaction time of 24 h. Chromatography gave 114 mg (81%) of the title compound as an oil. 1H NMR (CDCl3, 300 MHz): δ 8.36 (s, 0.8H), 7.71 (s, 0.2H), 7.49 (dd, 0.2H, J=1.5, 5.4 Hz), 7.08 (dd, 0.2H, J=1.2, 3.0 Hz), 6.80 (dd, 0.2H, J=3.3, 5.4 Hz), 6.64 (dd, 0.8H, J=3.3, 5.1 Hz), 6.30 (dd, 0.8H, J=1.8, 5.4 Hz), 5.98 (dd, 0.8H, J=1.2, 3.0 Hz), 2.79 (s, 2.4H), 2.21 (s, 0.6H).

reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
reactant | N-methylformamide | CNC=O | C2H5NO
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
product | N-Methyl-N-thiophen-3-yl-formamide | 114 mg, 81% | CN(C=O)C1=CSC=C1 | C6H7NOS
